US07259183B2
Preparation of 5,6-Difluoro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(3-trifluoromethoxy-phenyl)-ethyl]-amide
To a solution of 50 mg (0.25 mmol) of 5,6-difluoro-1H-indole-7-carboxylic acid and 81 mg of TBTU (0.25 mmol) in 4 ml DMF, were added 0.22 ml (1.28 mmol) of N,N-diisopropylethyl amine. After stirring for 5 min at rt, 89 mg (0.25 mmol) of (4-tert-butyl-benzyl)-[2-(3-trifluoromethoxy-phenyl)-ethyl]-amine were added. After stirring for 17 h at rt, the reaction mixture was diluted with 40 ml water and extracted with EtOAc (2×). The combined organic phases were washed with water and brine, dried with magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (8 g silica gel; EtOAc/heptane 1:2) to give 56 mg light yellow amorphous material (38%). MS: 530.1 (M).

reactant | 5,6-difluoro-1H-indole-7-carboxylic acid | 0.25 mmol, 50 mg | FC=1C=C2C=CNC2=C(C1F)C(=O)O | C9H5F2NO2
reactant | TBTU | 0.25 mmol, 81 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethyl amine | 1.28 mmol, 0.22 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (4-tert-butyl-benzyl)-[2-(3-trifluoromethoxy-phenyl)-ethyl]-amine | 0.25 mmol, 89 mg | C(C)(C)(C)C1=CC=C(CNCCC2=CC(=CC=C2)OC(F)(F)F)C=C1 | C20H24F3NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | water | 40 ml | O | H2O
product | 5,6-Difluoro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(3-trifluoromethoxy-phenyl)-ethyl]-amide | 38% | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C(=C(C=C3C=CNC23)F)F)CCC2=CC(=CC=C2)OC(F)(F)F)C=C1 | C29H27F5N2O2
